### ISSUE TITLE
RFC: `generalize` should utilize proof-irrelevance to auto-generalize proofs

### ISSUE THREAD

**Issue by Vtec234** [leanprover/lean4#5940]
### Proposal

In certain situations involving indexed type families, the `generalize` tactic fails to proceed because generalization breaks some proof term that depends on the generalized term. However, it seems that one can always proceed by proof-irrelevance: there is no way that anything else could depend on the proof term having a specific value, so it is always possible to generalize it first. I suggest that `generalize` should do this automatically.

```lean
axiom foo : (n m : Nat) → Type
axiom mk : (n : Nat) → n = n → foo n n
axiom f : Nat → Nat

set_option pp.proofs true in
example (n m : Nat) (h : f n = f m) :
    HEq (mk (f n) (congrArg f rfl)) (mk (f m) rfl) := by
  /- tactic 'generalize' failed, result is not type correct
    ∀ (x : ℕ), x = f m → HEq (mk x (congrArg f rfl)) (mk (f m) rfl) -/
  -- Specifically, `congrArg f rfl : f n = f n`, but should have type `x = x`. -/
  generalize f n = x at h

example (n m : Nat) (h : f n = f m) :
    HEq (mk (f n) (congrArg f rfl)) (mk (f m) rfl) := by
  generalize congrArg f rfl = pf -- works
  generalize f n = x at h pf -- works
  cases h -- now we can finish the proof
  rfl
```

Clear and detailed description of the proposal. Consider the following questions:

  - **User Experience**: It would eliminate a paper-cut when working with dependent types.

  - **Beneficiaries**: In practice, this kind of situation comes up in mathlib's category theory library. Users working with or on category theory may benefit.

  - **Maintainability**: The `generalize` code may become more complicated.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
